US04786311
5-(2-chlorosulfonylphenyl)-1-methyl-1H-tetrazole
To 5 g of a mixture of 5-(2-hydroxylaminophenyl)-2-methyl-2H-tetrazole and 5-(2-hydroxyaminophenyl)-1-methyl-1H-tetrazole dissolved in 12 mL of 37% hydrochloric acid and 5 mL of acetic acid was added with stirring 2.3 g of sodium nitrite dissolved in 10 mL of water at -5° to 5° C. After one hour this solution was added, at 0°-5° C., portionwise to a mixture of 25 mL of acetic acid, 0.5 g of cupric chloride and 5 mL of liquified sulfur dioxide. After the addition was completed the cooling bath was removed and the reaction mixture was allowed to warm to 31° C. whereupon the cooling bath was reapplied and the stirring was continued until two and one half hours after completion of the addition. The mixture was then poured into ice and worked up as described in Example 1 except that the desired methylene chloride solution was concentrated in vacuo to yield an oil which solidified. This product, (3.28 g) which was a mixture of the desired sulfonylchlorides, was of sufficient purity for the preparation of the sulfonamides of Example 4.

reactant | 5-(2-hydroxylaminophenyl)-2-methyl-2H-tetrazole | ONC1=C(C=CC=C1)C=1N=NN(N1)C | C8H9N5O
reactant | 5-(2-hydroxyaminophenyl)-1-methyl-1H-tetrazole | ONC1=C(C=CC=C1)C1=NN=NN1C | C8H9N5O
reactant | sodium nitrite | 2.3 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 5 mL | S(=O)=O | O2S
reactant | hydrochloric acid | 12 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-(2-chlorosulfonylphenyl)-1-methyl-1H-tetrazole | ClS(=O)(=O)C1=C(C=CC=C1)C1=NN=NN1C | C8H7ClN4O2S
